US04352913
EXAMPLE 20: N-(n-Butyl)-N'-(β-cyanopropyl)-N'-(γ-dimethylaminopropyl)urea
Under nitrogen, a solution of 99.1 g of butyl isocyanate in 100 ml of methylene chloride is added dropwise in the course of 1 hour to a solution of 169.3 g of N-(β-cyanopropyl)-dimethylaminopropylamine in 500 ml of methylene chloride. The mixture is then refluxed for 2 hours, concentrated, and the residue is treated at 80° C. in a high vacuum in order to remove all low boiling constituents. Yield: 249.2 g (90.8%) of product in the form of an oil. Titration: 1 equivalent=261.9 g (theory 268.4 g).

reactant | butyl isocyanate | 99.1 g | C(CCC)N=C=O | C5H9NO
reactant | N-(β-cyanopropyl)-dimethylaminopropylamine | 169.3 g | C(#N)C(CNCCCN(C)C)C | C9H19N3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-(n-Butyl)-N'-(β-cyanopropyl)-N'-(γ-dimethylaminopropyl)urea | C(CCC)NC(=O)N(CCCN(C)C)CC(C)C#N | C14H28N4O
